US07511050B2
Step B: 4-(4-phenyl-1H-pyrazol-1-yl)butanoic acid
A mixture of ethyl 4-(4-phenyl-1H-pyrazol-1-yl)butanoate (273 mg, 1.06 mmole) in methanol (5 ml) and 1N NaOH (5 mL) was stirred at room temperature for 2 hours. The reaction mixture was adjusted to be acidic (pH=3-4) with 6 N HCl with an ice bath and then extracted with EtOAc (3×). The combined organic phases were washed with water and brine, dried over Na2SO4, filtered and concentrated to give the desired product (190 mg, 78%). LCMS calculated for C13H15N2O2 (M+H): 231.1; found: 231.1.

reactant | ethyl 4-(4-phenyl-1H-pyrazol-1-yl)butanoate | 1.06 mmole, 273 mg | C1(=CC=CC=C1)C=1C=NN(C1)CCCC(=O)OCC | C15H18N2O2
reactant | HCl | 6 N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | NaOH | 1N, 5 mL | [OH-].[Na+]
product | 4-(4-phenyl-1H-pyrazol-1-yl)butanoic acid | 190 mg, 78% | C1(=CC=CC=C1)C=1C=NN(C1)CCCC(=O)O | C13H14N2O2
